US07790714B2
To a solution of hydroxy-(4-hydroxy-phenyl)-acetic acid monohydrate (10 g) in DMF (50 mL) was added K2CO3 (29.7 g,) followed by 3,4-dichlorobenzyl bromide (16.1 mL). The mixture was stirred at room temperature for 3 h. The mixture was poured into water (250 mL) and extracted with EtOAc. The organic layer was washed with water 1N HCl, brine, dried over Na2SO4, and concentrated. The resulting solid was triturated with diethyl ether and filtered to provide [4-(3,4-dichloro-benzyloxy)-phenyl]-hydroxy-acetic acid 3,4-dichloro-benzyl ester as a white solid (9.4 g). 1H NMR (400 MHz, DMSO d6): 7.69 (d, 1H), 7.63 (d, 1H), 7.55 (d, 1H), 7.41 (m, 1H), 7.37 (d, 1H), 7.31 (m, 2H), 7.20 (m, 1H), 6.97 (m, 2H), 6.06 (d, 1H), 5.16 (d, 1H), 5.1 (m, 4H).

reactant | hydroxy-(4-hydroxy-phenyl)-acetic acid monohydrate | 10 g | O.OC(C(=O)O)C1=CC=C(C=C1)O
reactant | K2CO3 | 29.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,4-dichlorobenzyl bromide | 16.1 mL | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
reactant | water | 250 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | [4-(3,4-dichloro-benzyloxy)-phenyl]-hydroxy-acetic acid 3,4-dichloro-benzyl ester | 9.4 g | ClC=1C=C(COC(C(O)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)=O)C=CC1Cl | C22H16Cl4O4
